US07982071B2
Alkylation reaction of 3-hydroxybenzaldehyde with 1,2-epoxypentane gave 3-(2-hydroxypentyloxy)benzaldehyde as a clear oil. Yield (0.6 g, 24%): 1H NMR (400 MHz, CDCl3) δ 9.97 (s, 1H), 7.42-7.49 (m, 2H), 7.40 (s, 1H), 7.21 (d, J=7.2 Hz, 1H), 4.04 (d, J=7.2 Hz, 2H), 3.87-3.93 (m, 1H), 2.28 (d, J=3.6 Hz, 1H), 1.42-1.62 (m, 4H), 0.98 (t, J=6.8 Hz, 3H).

reactant | 3-hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 1,2-epoxypentane | O1CC1CCC | C5H10O
product | 3-(2-hydroxypentyloxy)benzaldehyde | OC(COC=1C=C(C=O)C=CC1)CCC | C12H16O3
